### ISSUE TITLE
`termination_by?` over generalizes the decreasing term

### ISSUE THREAD

**Issue by hargoniX** [leanprover/lean4#4230]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The following (not quite correct theorem) causes an annoyance with `termination_by?`:
```lean
def copy (curr : Nat) (input : Array Nat) (output : Array Nat) : Array Nat :=
  if hcurr:curr < input.size then
    copy (curr + 1) input (output.push (input[curr]'hcurr))
  else
    output
termination_by input.size - curr

theorem foo (curr : Nat) (input : Array Nat) (output : Array Nat)
    : ∀ (idx : Nat) (hidx1 : idx < curr),
        (copy curr input output)[idx]'sorry
          =
        output[idx]'sorry := by
  intro idx hidx
  unfold copy
  split
  . rw [foo]
    . rw [Array.get_push_lt]
    . omega
  . rfl
termination_by?
```
Here `termination_by?` suggests:
```
Try this: termination_by idx => input.size - curr
```
Which, while correct, does contain the unused variable `idx` and will get flagged by the unused
variable linter. It would be great if it only did this for variables that are actually used in
the decreasing term.

### Context
This was discovered as part of my work on LeanSAT where lots of theorems of this form (that are actually correct due to additional constraints on the indices) produced slightly "wrong" `termination_by?` terms.

**Expected behavior:** Suggest `input.size - curr`

**Actual behavior:** Suggest `idx => input.size - curr`

### Versions
"4.8.0-rc1"

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Thanks! I think when `termination_by?` was added, the unused variable linter wouldn’t work for `termination_by`… 

Probably just a matter of using the delaborator for binders correctly.
